US07402608B2
To a suspension of zinc dust (2.87 g, 44.0 mmol) and dibromoethane (1.00 mL, 14.4 mmol) in tetrahydrofuran (20 mL) stirred under a nitrogen atmosphere at −40° C. was added titane tetrachloride (10 mL of a solution 1M in dichloromethane, 10 mmol). The mixture was then allowed to warm to room temperature and was stirred for two days at this temperature. This methylation reagent (2.5 eq) was added to a solution of 3-[(4-Methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester (0.200 g, 0.440 mmol, 1 eq) in dichloromethane (2 mL) and the resulting mixture was stirred 3 h at room temperature. A saturated solution of sodium bicarbonate was then added and reaction mixture was extracted with dichloromethane (3×30 mL). Organic phases were combined, dried over sodium sulfate and concentrated. The crude was purified by chromatography (30% ethyl acetate/hexanes) to give 160 mg (81%) of 3-[(4-Methyl-cyclohexanecarbonyl)-(4-methylene-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester as a white solid. NMR 1H (CDCl3, 400 MHz) 7.63 ppm (d, 2H); 7.40 ppm (m, 3H); 6.98 ppm (s, 1H); 4.82 ppm (tt, 1H); 4.78 ppm (d, 2H); 3.85 ppm (s, 3H); 2.20 ppm (m, 4H); 2.05 ppm (m, 2H); 1.90 ppm (d, 1H); 1.65 ppm (m, 4H); 1.42 ppm (m, 1H); 1.30 ppm (m, 2H); 1.00 ppm (m, 2H); 0.78 ppm (d, 3H); 0.64 ppm (m, 2H).

reactant | dibromoethane | 14.4 mmol, 1.00 mL | BrC(C)Br | C2H4Br2
reactant | 3-[(4-Methyl-cyclohexanecarbonyl)-(4-oxo-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.440 mmol, 0.200 g, 1 eq | COC(=O)C=1SC(=CC1N(C1CCC(CC1)=O)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C26H31NO4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | zinc | 44.0 mmol, 2.87 g | [Zn] | Zn
product | 3-[(4-Methyl-cyclohexanecarbonyl)-(4-methylene-cyclohexyl)-amino]-5-phenyl-thiophene-2-carboxylic acid methyl ester | 160 mg, 81% | COC(=O)C=1SC(=CC1N(C1CCC(CC1)=C)C(=O)C1CCC(CC1)C)C1=CC=CC=C1 | C27H33NO3S
